US09328096B2
Ethyl 5-(2-chloro-5-(6-pivalamidopyridin-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate
To a solution of 5-(5-(6-aminopyridin-2-yl)-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester (Preparation 2, 4.61 g, 10 mmol) in anhydrous pyridine (50 mL) was added pivaloyl chloride (1.32 g, 11 mmol) over 10 minutes with stirring at room temperature. The reaction was stirred for 90 minutes before concentrating in vacuo to low volume. The solution was partitioned between EtOAc (250 mL) and water (100 mL). The organic layer was separated, washed with brine (10 mL), dried over magnesium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 50% EtOAc in heptanes to afford the title compound (5 g, 92%).

reactant | 5-(5-(6-aminopyridin-2-yl)-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | 10 mmol, 4.61 g | C(C)OC(=O)C1=NN(C(=C1)NC(C1=C(C=CC(=C1)C1=NC(=CC=C1)N)Cl)=O)C1=CC=CC=C1 | C24H20ClN5O3
reactant | pivaloyl chloride | 11 mmol, 1.32 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 5-(2-chloro-5-(6-pivalamidopyridin-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxylate | 5 g, 92% | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)OCC)C=C(C=C1)C1=NC(=CC=C1)NC(C(C)(C)C)=O | C29H28ClN5O4
